US07985744B2
(2) Preparation of 1α,3β-dihydroxy-20(S)-(N,N-dimethylaminocarbonylethoxy)pregna-5,7,16-triene
To a solution of 1α,3β-bis(tert-butyldimethylsilyloxy)-20(S)-(N,N-dimethylaminocarbonylethoxy)pregna-5,7,16-triene (100 mg, 0.15 mmol) in tetrahydrofuran (6.0 ml), a 1M tetrahydrofuran solution of tetra-n-butylammonium fluoride (1.5 ml) was added and stirred at 50° C. for 1 hour under a nitrogen stream. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate, washed sequentially with 0.5N hydrochloric acid, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After evaporation under reduced pressure to remove the solvent, the resulting residue was purified by preparative thin layer chromatography (1.0 mm×2 plates, chloroform:methanol=10:1) to give the titled compound (45 mg, 70.3%) as a colorless foam.

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-20(S)-(N,N-dimethylaminocarbonylethoxy)pregna-5,7,16-triene | 0.15 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)OCCC(=O)N(C)C)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C38H67NO4Si2
reactant | tetra-n-butylammonium fluoride | 1.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 6.0 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | 1α,3β-dihydroxy-20(S)-(N,N-dimethylaminocarbonylethoxy)pregna-5,7,16-triene | 45 mg, 70.3% | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@H](C)OCCC(=O)N(C)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C26H39NO4
